US08309562B2
N4-(4-Methoxy-phenyl)-6,N2,N2,N4-tetramethyl-quinazoline-2,4-diamine
A solution of (2-chloro-6-methyl-quinazolin-4-yl)-(4-methoxyphenyl)-methyl-amine (64.4 mg, 0.21 mmol) and dimethylamine (2.0 M in THF, 1.0 mL, 2.0 mmol) in i-PrOH (2 mL) was heated to 100° C. overnight. After cooling to room temperature the reaction was concentrated onto SiO2 and purified by gradient MPLC (SiO2, 0 to 10%, MeOH/CH2Cl2, 20 min). 17.9 mg (26%) of the title compound was obtained: 1H NMR (DMSO-d6) δ 7.17-7.28 (m, 2 H), 7.12-7.16 (m, 2 H), 6.95-7.01 (m, 2 H), 6.51-6.54 (m, 1 H), 3.77 (s, 3 H), 3.44 (s, 3 H), 3.19 (s, 6 H), 1.94 (s, 3 H). HRMS (ES) calcd for C19H23N4O [(M+H)] 323.1866, found 323.1951.

reactant | (2-chloro-6-methyl-quinazolin-4-yl)-(4-methoxyphenyl)-methyl-amine | 0.21 mmol, 64.4 mg | ClC1=NC2=CC=C(C=C2C(=N1)N(C)C1=CC=C(C=C1)OC)C | C17H16ClN3O
reactant | dimethylamine | 2.0 mmol, 2.0 M, 1.0 mL | CNC | C2H7N
solvent | i-PrOH | 2 mL | CC(C)O | C3H8O
product | N4-(4-Methoxy-phenyl)-6,N2,N2,N4-tetramethyl-quinazoline-2,4-diamine | 17.9 mg, 26% | COC1=CC=C(C=C1)N(C1=NC(=NC2=CC=C(C=C12)C)N(C)C)C | C19H22N4O
